US05972965
A 1.0 M solution of tetrabutylammonium fluoride in tetrahydrofuran (THF) (0.75 ml) was added to a solution of 3-[3-(tert-butyldiphenylsilyloxy)benzyl]-2-(4,5-diphenyl-2-oxazolyl)-5-oxotetrahydrofuran (0.26 g) in THF (0.75 ml) at room temperature. The resulting mixture was stirred at the same temperature for 5 hours and partitioned between ethyl acetate and water. The organic layer was separated, washed with brine, dried over MgSO4, and evaporated in vacuo. The residue was chromatographed over silica gel to afford 2-(4,5-diphenyl-2-oxazolyl)-3-(3-hydroxybenzyl)-5-oxotetrahydrofuran (133 mg) as a colorless oil. (+) APCI-MS (m/z): 412 (M+ +1) IR (Nujol): 3340, 1770, 1590 cm-1NMR (CDCl3, δ): 2.30-3.26 (4H, m), 3.35-3.47 (1H, m), 5.22 and 5.31 (1H, each d, J=18.2 and 6.1 Hz, respectively), 6.53-6.68 (2H, m), 7.12-7.65 (13H, m)

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 3-[3-(tert-butyldiphenylsilyloxy)benzyl]-2-(4,5-diphenyl-2-oxazolyl)-5-oxotetrahydrofuran | 0.26 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC=1C=C(CC2C(OC(C2)=O)C=2OC(=C(N2)C2=CC=CC=C2)C2=CC=CC=C2)C=CC1 | C42H39NO4Si
solvent | tetrahydrofuran | 0.75 ml | O1CCCC1 | C4H8O
solvent | THF | 0.75 ml | O1CCCC1 | C4H8O
product | 2-(4,5-diphenyl-2-oxazolyl)-3-(3-hydroxybenzyl)-5-oxotetrahydrofuran | 133 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1OC(CC1CC1=CC(=CC=C1)O)=O | C26H21NO4
